US07504412B2
Conducting the operations similar to those of Production Example 14 using 2-amino-5-bromopyrazine (2.7 g) and 4-fluorophenylboronic acid (3.4 g), 2-amino-5-(4-fluorophenyl)pyrazine was obtained as white solid.

reactant | 2-amino-5-bromopyrazine | 2.7 g | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | 4-fluorophenylboronic acid | 3.4 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 2-amino-5-(4-fluorophenyl)pyrazine | NC1=NC=C(N=C1)C1=CC=C(C=C1)F | C10H8FN3
